US04880806
To 3,6-difluoro-2-(4-ethoxycarbonyl-1-piperazinyl)-5-nitrotoluene (7.1 g) are added anhydrous dimethylsulfoxide (23 ml), potassium fluoride (2.0 g) and cyclopropylamine (1.5 g), and the mixture is heated at 60° C. for 6 hours. The reaction mixture is poured into ice water, and extracted with dichloromethane. The solvent is distilled off and the residue is recrystallized from ethanol to give N-cyclopropyl-2-methyl-3-(4-ethoxycarbonyl-1-piperazinyl)-4-fluoro-6-nitroaniline (7.4 g), as orange red prisms, m.p. 97°-98° C.

reactant | 3,6-difluoro-2-(4-ethoxycarbonyl-1-piperazinyl)-5-nitrotoluene | 7.1 g | FC=1C(=C(C(=C(C1)[N+](=O)[O-])F)C)N1CCN(CC1)C(=O)OCC | C14H17F2N3O4
reactant | potassium fluoride | 2.0 g | [F-].[K+]
reactant | cyclopropylamine | 1.5 g | C1(CC1)N | C3H7N
solvent | dimethylsulfoxide | 23 ml | CS(=O)C | C2H6OS
product | N-cyclopropyl-2-methyl-3-(4-ethoxycarbonyl-1-piperazinyl)-4-fluoro-6-nitroaniline | 7.4 g | C1(CC1)NC1=C(C(=C(C=C1[N+](=O)[O-])F)N1CCN(CC1)C(=O)OCC)C | C17H23FN4O4
